US08466289B2
Synthesis of the Title Compound; 3-Hydroxy-cyclobutanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-1,2,3,5-tetrahydro-imidazo[1,2-a]pyridin-8-yl]-amide (6A)
3-Benzyloxy-cyclobutanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-1,2,3,5-tetrahydro-imidazo[1,2-a]pyridin-8-yl]-amide (120 mg, 0.19 mmol) in DCM (3 mL) was reacted with 1M BCl3 (67 mg, 0.57 mmol) at 0° C. The resulting mixture was stirred at room temperature for 6 hours. Purification by column chromatography on silica gel (5% MeOH in CHCl3), followed by preparative HPLC afforded 30 mg of the product (29.4% yield).

reactant | 3-Benzyloxy-cyclobutanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-1,2,3,5-tetrahydro-imidazo[1,2-a]pyridin-8-yl]-amide | 0.19 mmol, 120 mg | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1C)=O)CCN2)NS(=O)(=O)C2CC(C2)OCC2=CC=CC=C2 | C25H26FIN4O4S
reactant | BCl3 | 0.57 mmol, 1M, 67 mg | B(Cl)(Cl)Cl | BCl3
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-Hydroxy-cyclobutanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-1,2,3,5-tetrahydro-imidazo[1,2-a]pyridin-8-yl]-amide | 30 mg, 29.4% yield | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1C)=O)CCN2)NS(=O)(=O)C2CC(C2)O | C18H20FIN4O4S
